US08349880B2
Step R (1): A mixture of 3-methyl-1H-1,2,4-triazole (8.12 g, 98 mmol), 1,2,3-trifluoro-5-nitrobenzene (17.3 g, 98 mmol), and sodium bicarbonate (8.21 g, 98 mmol) in DMSO (100 mL) was heated at 80° C. for 24 h. The reaction mixture was allowed to cool to rt and was poured into water (800 mL). The aqueous mixture was extracted with EtOAc (3×200 mL). The combined organic extracts were sequentially washed with water (500 mL) and brine solution (100 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude reaction mixture was purified using silica gel chromatography (30-80% EtOAc/hexane, linear gradient) to afford a 1.7:1.0 mixture of two regioisomeric products as an orange solid. The orange solid was recrystallized from EtOAc (hot-cold) to provide 4.25 g of 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole as a white solid. The mother liquor was recrystallized from EtOAc/Hex (hot-rt) to afford 1.89 g of 1-(2,6-difluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole as a light yellow solid. The mother liquor was repeatly chromatographed under the previously stated conditions to provide two samples. One sample was partially enriched in the slightly less polar isomer, 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole. The other sample was partially enriched in the slightly more polar isomer, 1-(2,6-difluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole. Both samples were independently recrystallized from EtOAc/Hex to provide an additional 1.9 g of 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole and 1.37 g of 1-(2,6-difluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole. A combined total of 6.15 g (26% yield) of 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole and 3.2 g (13% yield) of 1-(2,6-difluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole was obtained.

reactant | 3-methyl-1H-1,2,4-triazole | 98 mmol, 8.12 g | CC1=NNC=N1 | C3H5N3
reactant | 1,2,3-trifluoro-5-nitrobenzene | 98 mmol, 17.3 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | sodium bicarbonate | 98 mmol, 8.21 g | C([O-])(O)=O.[Na+]
reactant | water | 800 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 1-(2,6-difluoro-4-nitrophenyl)-3-methyl-1H-1,2,4-triazole | 4.25 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1N=C(N=C1)C | C9H6F2N4O2
